US05463069
N-(3-(trifluoromethyl)phenyl)cyanamide (18.6 g) was dissolved in N,N-dimethylformamide (DMF) (93.0 g), to which powdered potassium carbonate (20.7 g) and potassium iodide (1.7 g) were added at room temperature with stirring. Further, 2,3-dichloro-1-propene (13.3 g) was added dropwise at room temperature with stirring. The mixture was heated to 50° C. and stirred at the same temperature for 1 hour. After cooling to room temperature, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, which afforded 25.8 g of N-(3-(trifluoromethyl)-phenyl)-N-(2-chloro-2-propenyl)cyanamide as an oil (99% yield in appearance). The percentage areas of gas chromatography and liquid chromatography were 98% and 99%, respectively.

reactant | N-(3-(trifluoromethyl)phenyl)cyanamide | 18.6 g | FC(C=1C=C(C=CC1)NC#N)(F)F | C8H5F3N2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.7 g | [I-].[K+]
reactant | 2,3-dichloro-1-propene | 13.3 g | ClC(=C)CCl | C3H4Cl2
solvent | N,N-dimethylformamide | 93.0 g | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(3-(trifluoromethyl)-phenyl)-N-(2-chloro-2-propenyl)cyanamide | 25.8 g, 99% yield | FC(C=1C=C(C=CC1)N(C#N)CC(=C)Cl)(F)F | C11H8ClF3N2
